US09422263B2
6-Fluoro-1H-indazole-5-carbaldehyde
A slurry of 4.8 g (30 mmol) 6-fluoro-1H-indazole-5-carbonitrile [commercially available; preparation given in EP 1 510 516-A1 (production example 82)] in anhydrous toluene (150 ml) was cooled to −40° C. Under inert gas atmosphere, 48 ml (72 mmol) diisobutylaluminium hydride solution (1.5 M in toluene) were added over 30 min, and the resulting mixture was stirred at −40° C. for 3 h. Then, ethyl acetate (30 ml) was added, and the mixture was stirred for further 20 min at −40° C. followed by dropwise addition of aqueous tartaric acid (1 M, 30 ml). The mixture was allowed to warm to 0° C. and filtered at this temperature. The filtrate was extracted with ethyl acetate several times, and the combined organic phases were subsequently washed with saturated aqueous sodium hydrogencarbonate and with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product thus obtained (2.60 g, 53% of th.) was used in the next step without further purification.

reactant | 6-fluoro-1H-indazole-5-carbonitrile | 30 mmol, 4.8 g | FC1=C(C=C2C=NNC2=C1)C#N | C8H4FN3
reactant | diisobutylaluminium hydride | 72 mmol, 1.5 M, 48 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
reactant | tartaric acid | 1 M, 30 ml | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Fluoro-1H-indazole-5-carbaldehyde | FC1=C(C=C2C=NNC2=C1)C=O | C8H5FN2O
